US04751232
Preparation of 1-acetamido-3-amino-2,6-dimethylbenzene
N-Acetyl-2,6-dimethyl-3-nitroaniline (30.6 g; 0.15 mole) was dissolved in a mixture of methanol (100 ml), ethanol (50 ml) and acetic acid (100 ml). To the resulting solution was added 2.0 g of 10% palladium carbon and the mixture was stirred in a stream of hydrogen at room temperature for 26 hours. The catalyst was filtered off, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol-ether to give 22.0 g (84%) of the title object compound as crystals, m.p. 195°-197° C.

reactant | N-Acetyl-2,6-dimethyl-3-nitroaniline | 0.15 mole, 30.6 g | C(C)(=O)NC1=C(C(=CC=C1C)[N+](=O)[O-])C | C10H12N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 2.0 g | [C].[Pd]
product | 1-acetamido-3-amino-2,6-dimethylbenzene | C(C)(=O)NC1=C(C(=CC=C1C)N)C | C10H14N2O
